US07368592B1
As disclosed by Staiger, J. Org. Chem. (1959), 24, 1214-19, N-methylisatoic anhydride reacts with methanol under alkaline conditions to produce Methyl N-methylanthranilate.

reactant | N-methylisatoic anhydride | CN1C=2C(C(=O)OC1=O)=CC=CC2 | C9H7NO3
solvent | methanol | CO | CH4O
product | Methyl N-methylanthranilate | CNC=1C(C(=O)OC)=CC=CC1 | C9H11NO2
